US08080552B2
iv) 1-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-(2-methoxy-5-trifluoromethyl-phenyl)-urea
205.6 mg (1.268 mmol) 1,1′-Carbonyl-diimidazol (CDI) were given to a solution of 220.3 mg (1.153 mmol) 2-methoxy-5-(trifluoromethyl)aniline in 4.0 ml dichloromethane. After stirring for 2 h a formed precipitate was dissolved by addition of 5 ml THF and the mixture stirred for 12 h at r.t. A solution of 300.0 mg (1.153 mmol) 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol in 6 ml dichloromethane was added and the mixture stirred for 5 d at r.t. The reaction mixture was evaporated and the residue was purified by chromatography on silica gel (dichloromethane/methanol 95:5). The obtained material was washed with ether and dissolved in hot ethanol and evaporated. After treatment with a small amount of ethanol the precipitate was isolated by filtration and dried. Yield: 172 mg (31%) of the title compound.

reactant | 1,1′-Carbonyl-diimidazol | 1.268 mmol, 205.6 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 2-methoxy-5-(trifluoromethyl)aniline | 1.153 mmol, 220.3 mg | COC1=C(N)C=C(C=C1)C(F)(F)F | C8H8F3NO
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | 3-[4-(4-Amino-phenoxy)-pyrimidin-2-ylamino]-propan-1-ol | 1.153 mmol, 300.0 mg | NC1=CC=C(OC2=NC(=NC=C2)NCCCO)C=C1 | C13H16N4O2
solvent | dichloromethane | 4.0 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | 1-{4-[2-(3-Hydroxy-propylamino)-pyrimidin-4-yloxy]-phenyl}-3-(2-methoxy-5-trifluoromethyl-phenyl)-urea | OCCCNC1=NC=CC(=N1)OC1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C22H22F3N5O4
